US04680402
[2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-methoxyphenyl)-methanone
Proceeding as indicated in example 2, with 0.0635 mole (18.5 g) of 2-chloro-4'-methoxy-5-nitro-benzophenone, 0.076 mole (10.5 g) of calcium carbonate and 0.127 mole (12.57 g) of 4-methyl piperidine in 50 cm3 of ethanol, 12.2 g (Yield: 53%) of the expected product are obtained. M.P. 119° C.

reactant | 2-chloro-4'-methoxy-5-nitro-benzophenone | 0.0635 mole, 18.5 g | ClC1=C(C(=O)C2=CC=C(C=C2)OC)C=C(C=C1)[N+](=O)[O-] | C14H10ClNO4
reactant | calcium carbonate | 0.076 mole, 10.5 g | C([O-])([O-])=O.[Ca+2]
reactant | 4-methyl piperidine | 0.127 mole, 12.57 g | CC1CCNCC1 | C6H13N
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | [2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-methoxyphenyl)-methanone | 12.2 g, Yield: 53% | CC1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)OC | C20H22N2O4
